Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.80113856638
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][H:5],2.39064459949
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-1.92705504015
[O:1]=[C:2][H:3]>>[H:3].[O:1]=[C:2],1.0906089837
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.8829619858
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.07507111872
[C:1]#[C:2][C:3][O:5][H:6].[H:4]>>[C:1]#[C:2][C:3]([H:4])[O:5][H:6],-4.29186820456
[H:1][O:2][C:3][C@@:4]([H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.00660812809
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.624625797059999
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]#[C:10][H:11].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-1.7248862860099998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[H:8],5.11256364628
[C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-5.29431598155
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],0.428276137479
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][H:9].[O:1],6.200965354909999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],2.04335637487
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]=[C:9]([H:10])[H:11].[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:12],6.11646840929
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3],5.57902316202
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.59618944393
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],3.84744765516
[H:1][C:2]=[C:4]([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.92103356167
[C:1][C:2][O:3].[O:4][C:5]#[C:6][H:7]>>[C:1][C:2](=[O:3])[O:4][C:5]#[C:6][H:7],-0.0800665301094
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.413331808080001
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:5][H:6],5.4706150732
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],2.6354021143
[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13],-0.18240206938
[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[C:3]([O:4][O:5])[C:10]([H:11])([H:12])[H:13],2.88032715505
[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.98247747239
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10],2.99405517847
[H:1][C:2].[O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.08664949161
